US07906528B2
To a solution of 1-[1-(2-chloro-6-ethyl-pyrimidin-4-yl)-5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-one (150 mg, 0.32 mmol) in a (4:1) mixture EtOH—H2O (4 mL) at −30° C., NaBH4 (70 mg, 1.8 mmol) is added, and the mixture is allowed gradually warm up to room temperature at which the reaction is maintained for 2 h. The mixture is concentrated under reduced pressure, and an aqueous saturated Rochelle's salt solution (10 mL) is added. The resulting suspension is stirred at room temperature for 1 h, and the product is extracted with DCM. The obtained solution is washed with brine, dried (Na2SO4), and concentrated under reduced pressure. Chromatography of the residue on silica gel (hexane-EtOAc, 1:1) gives 1-[1-(2-chloro-6-ethyl-pyrimidin-4-yl)-5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol as colorless oil.

reactant | 1-[1-(2-chloro-6-ethyl-pyrimidin-4-yl)-5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-one | 0.32 mmol, 150 mg | ClC1=NC(=CC(=N1)N1C=C(C=2C1=CN=C(C2)C2=C(C=CC=C2C)C)C(C(CC)CC)=O)CC | C27H29ClN4O
reactant | NaBH4 | 1.8 mmol, 70 mg | [BH4-].[Na+]
solvent | EtOH—H2O | 4 mL | C(C)O.O
product | 1-[1-(2-chloro-6-ethyl-pyrimidin-4-yl)-5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol | ClC1=NC(=CC(=N1)N1C=C(C=2C1=CN=C(C2)C2=C(C=CC=C2C)C)C(C(CC)CC)O)CC | C27H31ClN4O
